US03951981
Preparation of 6-Chloro-10-(methylthio)-4H-thieno[3,4-b] [1,5]benzodiazepine
To a stirred suspension of 0.7 g. of 6-chloro-4,9-dihydro-10H-thieno[3,4-b] [1,5]benzodiazepin-10-thione in 10 ml. of dioxane is added dropwise and simultaneously at 30°-40°C., a solution of 0.95 g. of potassium hydroxide in 10 ml. of methanol and 0.8 g. of methylsulfate. After addition is complete, the mixture is stirred for 3 hours, diluted with methanol and filtered. The filtrate is concentrated to 20 ml. and diluted with water. The precipitate is collected, washed with water and recrystallized from methanol-water to give yellow crystals, m.p. 152°-154°C.

reactant | 6-chloro-4,9-dihydro-10H-thieno[3,4-b] [1,5]benzodiazepin-10-thione | ClC1=CC2=C(NC(C=3C(N2)=CSC3)=S)C=C1 | C11H7ClN2S2
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | methylsulfate | COS(=O)(=O)[O-]
solvent | methanol | CO | CH4O
product | 6-Chloro-10-(methylthio)-4H-thieno[3,4-b] [1,5]benzodiazepine | ClC1=CC2=C(N=C(C=3C(N2)=CSC3)SC)C=C1 | C12H9ClN2S2
